US06265415B1
Synthesis of 8-amino-2,3,6-trimethylimidazo[1,2-a]pyridine
To a solution of 2,3-diamino-5-methylpyridine (2.0 g, 16 mmol) in ethanol (100 ml) was added 3-bromo-2-butanon (2.4 g, 16 mmol). The reaction mixture was refluxed for 16 h. An additional amount of 3-bromo-2-butanon (1.0 g 6.7 mmol) and triethylamine (1.0 g, 9.9 mmol) were added and the mixture was refluxed for 2 h. The ethanol was evaporated under reduced pressure and the residue was treated with methylene chloride and a solution of bicarbonate. The organic layer was separated, dried over sodium sulfate and evaporated under reduced pressure. The oily residue was purified by column chromatography on silica gel, using methanol:methylene chloride (1:20) as eluent to give the desired product (1.05 g, 37%).

reactant | 2,3-diamino-5-methylpyridine | 16 mmol, 2.0 g | NC1=NC=C(C=C1N)C | C6H9N3
reactant | 3-bromo-2-butanon | 16 mmol, 2.4 g | BrC(C(C)=O)C | C4H7BrO
reactant | 3-bromo-2-butanon | 6.7 mmol, 1.0 g | BrC(C(C)=O)C | C4H7BrO
reactant | triethylamine | 9.9 mmol, 1.0 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 8-amino-2,3,6-trimethylimidazo[1,2-a]pyridine | 1.05 g, 37% | NC=1C=2N(C=C(C1)C)C(=C(N2)C)C | C10H13N3
